US04442115
A solution of crude 1-benzyl-1H-tetrazole-5-carbonyl chloride (prepared from 0.73 g of potassium 1-benzyl-1H-tetrazole-5-carboxylate in the manner hereinbefore described in Reference Example 3) in dry methylene chloride (14 ml) was added to a stirred mixture of 3-amino-2-hydroxy-5-methylacetophenone (0.5 g) and pyridine (0.27 g) in dry methylene chloride (12 ml) at between 5° and 10° C. Stirring was maintained for 2 hours, allowing the temperature to rise to room temperature, and then the mixture was left to stand overnight. A further portion of methylene chloride (20 ml) was then added and the mixture was washed with water. The organic phase was dried over magnesium sulphate, and evaporated in vacuo to give a solid, which was recrystallised from ethanol, to give 3'-acetyl-1-benzyl-2'-hydroxy-5'-methyl-1H-tetrazole-5-carboxanilide (1.0 g), m.p. 183°-184° C.

reactant | 1-benzyl-1H-tetrazole-5-carbonyl chloride | C(C1=CC=CC=C1)N1N=NN=C1C(=O)Cl | C9H7ClN4O
reactant | potassium 1-benzyl-1H-tetrazole-5-carboxylate | 0.73 g | C(C1=CC=CC=C1)N1N=NN=C1C(=O)[O-].[K+]
reactant | 3-amino-2-hydroxy-5-methylacetophenone | 0.5 g | CC1=CC(=C(C(=C1)C(=O)C)O)N | C9H11NO2
reactant | pyridine | 0.27 g | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 14 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 3'-acetyl-1-benzyl-2'-hydroxy-5'-methyl-1H-tetrazole-5-carboxanilide | 1.0 g | C(C)(=O)C=1C(=C(NC(=O)C2=NN=NN2CC2=CC=CC=C2)C=C(C1)C)O | C18H17N5O3
